US03989707
A mixture of 30 parts of methyl 4-(2-amino-4-chlorophenylamino)-3-methyl-1-piperidinecarboxylate and 10 parts of urea is stirred and heated at 160°-180° C (oil-bath) for 3h. 30. The reaction mixture is cooled and the product is extracted with methylbenzene. The extract is washed successively with water, with a diluted hydrochloric acid solution and again with water, dried, filtered and evaporated. The oily residue is crystallized from a warm mixture of 2,2'-oxybispropane and a small amount of 2-propanol. After cooling, the product is filtered off and dried, yielding methyl 4-(5-chloro-1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)-3-methyl-1-piperidinecarboxylate; mp. 196.2° C.

reactant | methyl 4-(2-amino-4-chlorophenylamino)-3-methyl-1-piperidinecarboxylate | NC1=C(C=CC(=C1)Cl)NC1C(CN(CC1)C(=O)OC)C | C14H20ClN3O2
reactant | urea | NC(=O)N | CH4N2O
product | methyl 4-(5-chloro-1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)-3-methyl-1-piperidinecarboxylate | ClC1=CC2=C(N(C(N2)=O)C2C(CN(CC2)C(=O)OC)C)C=C1 | C15H18ClN3O3
